US07737166B2
6-Fluoro-4-nitrobiphenyl-3-carbonitrile (I-241)
5-Bromo-4-fluoro-2-nitrobenzonitrile (I-240) (9.1 g, 37.14 mmol) was dissolved in tetrahydrofuran (270 ml), and at room temperature, phenylboronic acid (9.06 g, 74.28 mmol), tripotassium phosphate (15.77 g, 74.28 mmol) and tetrakis(triphenylphosphine)palladium (2.15 g, 1.86 mmol) were added. After stirred under nitrogen atmosphere at 75° C. for 48 hours, this was cooled to room temperature. The insoluble matter was separated by filtration, the filtrate was concentrated under reduced pressure. The residue was fractionated with chloroform and aqueous saturated ammonium chloride solution. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate.

reactant | 5-Bromo-4-fluoro-2-nitrobenzonitrile | 37.14 mmol, 9.1 g | BrC=1C(=CC(=C(C#N)C1)[N+](=O)[O-])F | C7H2BrFN2O2
reactant | phenylboronic acid | 74.28 mmol, 9.06 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tripotassium phosphate | 74.28 mmol, 15.77 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 1.86 mmol, 2.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Fluoro-4-nitrobiphenyl-3-carbonitrile | FC1=CC(=C(C=C1C1=CC=CC=C1)C#N)[N+](=O)[O-] | C13H7FN2O2
